* C:\users\theofc\Documents\UFMG\ELT2\AmplificadorOperacional\AmplificadorOperacionalCompleto.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 N003 N004 -VCC 0 BC547B
Q2 N004 N004 -VCC 0 BC547B
Q3 N002 N001 +VCC 0 BC557B
Q4 N001 N001 +VCC 0 BC557B
R1 N001 0 15k
Q5 VOUT N003 -VCC 0 BC547B
Q6 +VCC N001 VOUT 0 BC557B
V1 +VCC 0 15
V2 -VCC 0 -15
Q7 N003 0 N002 0 BC547B
Q8 N004 0 N002 0 BC547B
.model NPN NPN
.model PNP PNP
.lib C:\users\theofc\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100m
.backanno
.end
